US08426466B2
Synthesis of n-hexyl 4-(3-carboxy-propionyloxy)-2-hydroxybenzoate
n-Hexyl 2,4-dihydroxybenzoate (2 g) is dissolved in 25 mL of methylene chloride. To the solution, 0.85 g of succinic anhydride and 1.05 g of 4-N,N-dimethylpyridene are added. The reaction mixture is allowed to stir at ambient conditions overnight. The reaction mixture is extracted with 1 N HCl, water and saturated sodium chloride solution. The organic layer is dried over anhydrous sodium sulfate. Solvent is removed under reduced pressure to yield the product as an off-white powder.

reactant | n-Hexyl 2,4-dihydroxybenzoate | 2 g | OC1=C(C(=O)OCCCCCC)C=CC(=C1)O | C13H18O4
reactant | succinic anhydride | 0.85 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | n-hexyl 4-(3-carboxy-propionyloxy)-2-hydroxybenzoate | C(=O)(O)CCC(=O)OC1=CC(=C(C(=O)OCCCCCC)C=C1)O | C17H22O7
